US07709645B2
Step 1: Synthesis of {2-dimethylcarbamoyl-6-fluoro-4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid isopropyl ester
45 mg (0.08 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide was dissolved in 1.0 mL dichloromethane and 1.0 mL of a saturated aqueous solution of sodium bicarbonate was added. The biphasic solution was cooled to 0° C. in an ice bath and, while stirring vigorously, 161 μL (0.161 mmol) of 1 M isopropyl chloroformate in toluene was added. The reaction was allowed to stir in the ice bath and allowed to warm to room temperature overnight (16 hours). The layers were separated and the organic layer was washed twice with water. The organic layer was then dried over sodium sulfate and concentrated. MS: m/z 645.1 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.08 mmol, 45 mg | NC1=C(C(=O)N(C)C)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H27FN4O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | isopropyl chloroformate | 0.161 mmol, 1 M, 161 μL | ClC(=O)OC(C)C | C4H7ClO2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {2-dimethylcarbamoyl-6-fluoro-4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid isopropyl ester | C(C)(C)OC(NC1=C(C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)C(N(C)C)=O)=O | C34H33FN4O6S
